* c:\users\lenovo\esim-workspace\rtl_full_adder_design_and_simulation\rtl_full_adder_design_and_simulation.cir

.include BC547B.lib
q1 net-_q1-pad1_ net-_q1-pad2_ gnd BC547B
r2  va net-_q1-pad2_ 10k
r1  vb net-_q1-pad2_ 10k
r3  net-_q1-pad1_ net-_r12-pad2_ 1k
q3 net-_q3-pad1_ net-_q3-pad2_ gnd BC547B
r8  net-_q1-pad1_ net-_q3-pad2_ 10k
r7  vb net-_q3-pad2_ 10k
r9  net-_q3-pad1_ net-_r12-pad2_ 1k
q2 net-_q2-pad1_ net-_q2-pad2_ gnd BC547B
r5  va net-_q2-pad2_ 10k
r4  net-_q1-pad1_ net-_q2-pad2_ 10k
r6  net-_q2-pad1_ net-_r12-pad2_ 1k
q4 net-_q4-pad1_ net-_q4-pad2_ gnd BC547B
r11  net-_q2-pad1_ net-_q4-pad2_ 10k
r10  net-_q3-pad1_ net-_q4-pad2_ 10k
r12  net-_q4-pad1_ net-_r12-pad2_ 1k
q5 net-_q5-pad1_ net-_q5-pad2_ gnd BC547B
r14  net-_q4-pad1_ net-_q5-pad2_ 10k
r13  vc net-_q5-pad2_ 10k
r15  net-_q5-pad1_ net-_r12-pad2_ 1k
q6 net-_q6-pad1_ net-_q6-pad2_ gnd BC547B
r17  net-_q4-pad1_ net-_q6-pad2_ 10k
r16  net-_q5-pad1_ net-_q6-pad2_ 10k
r18  net-_q6-pad1_ net-_r12-pad2_ 1k
q7 net-_q7-pad1_ net-_q7-pad2_ gnd BC547B
r20  net-_q5-pad1_ net-_q7-pad2_ 10k
r19  vc net-_q7-pad2_ 10k
r21  net-_q7-pad1_ net-_r12-pad2_ 1k
q8 sum net-_q8-pad2_ gnd BC547B
r23  net-_q6-pad1_ net-_q8-pad2_ 10k
r22  net-_q7-pad1_ net-_q8-pad2_ 10k
r24  sum net-_r12-pad2_ 1k
q9 carry net-_q9-pad2_ gnd BC547B
r26  net-_q5-pad1_ net-_q9-pad2_ 10k
r25  net-_q1-pad1_ net-_q9-pad2_ 10k
r27  carry net-_r12-pad2_ 1k
v4 net-_r12-pad2_ gnd  dc 5V
v1  va gnd pulse(0v 5V 0us 1us 1us 1ms 4ms)
v2  vb gnd pulse(0v 5v 0us 1us 1us 2ms 4ms)
v3  vc gnd pulse(0v 5v 0v 1us 1us 3ms 4ms)
* u1  va plot_v1
* u2  vb plot_v1
* u3  vc plot_v1
* u4  sum plot_v1
* u5  carry plot_v1
.tran 1e-03 20e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(va)
plot v(vb)
plot v(vc)
plot v(sum)
plot v(carry)
.endc
.end
